US08026234B2
Methyl 3-amino-2,2-difluoropropanoate-HCl salt:
In a round bottom flask, 3-amino-2,2-difluoropropanoic acid (500 mg, 4 mmol) was solubilized in MeOH (10 mL). At 0° C., SOCl2 (1 mL) was added dropwise. The reaction mixture was then stirred at room temperature overnight. Evaporation of the reaction mixture gave a white solid to be the product as HCl salt (570 mg, 81%). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.63 (t, J=16 Hz, 2H) 3.87 (s, 3H) 9.07 (br. s., 2H).

reactant | 3-amino-2,2-difluoropropanoic acid | 4 mmol, 500 mg | NCC(C(=O)O)(F)F | C3H5F2NO2
reactant | SOCl2 | 1 mL | O=S(Cl)Cl | Cl2OS
reactant | HCl | 570 mg | Cl | ClH
reactant | MeOH | 10 mL | CO | CH4O
product | Methyl 3-amino-2,2-difluoropropanoate-HCl salt | Cl.NCC(C(=O)OC)(F)F | InChI=1S/C4H7F2NO2.ClH/c1-9-3(8)4(5,6)2-7;/h2,7H2,1H3;1H
